US06713474B2
Phenyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (30 mg, 0.065 mmol) was mixed glycerol formal (0.05 mL) in pyridine (0.5 mL). The reaction mixture was heated at 100° C. overnight. The solvent was removed and the residue was purified by preparative reverse phase PHLC to give tetrahydro-3-furanyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (2 mg, 0.004 mmol). 1H NMR (CDCl-d) δ 2.06(m, 4H), 3.66(m, 2H), 3.92(m, 3H), 4.07(m, 6H), 4.79(m, 1H), 4.83(d, J=6.3 Hz, 1H), 4.96(m, 1H), 5.04(d, J=6.3 Hz, 1H), 6.15(vbs, 2H), 6.96 (s, 1H), 7.05(m, 2H), 7.53(s, 1H), 8.15(d, J=8.2 Hz, 1H), 8.22(s, 1H). LC/MS MH30 =471 and 1,3-dioxolan-4-ylmethyl N-(4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl)carbamate(6.0 mg, 0.013 mmol). 1H NMR (CDCl-d) δ 2.06(m, 4H), 3.66(m, 2H), 3.75(m, 1H), 3.92(m, 3H), 4.03(m, 1H), 4.13(m, 1H), 4.34(m, 2H), 4.94(s, 1H), 4.97(m, 1H), 5.10(s, 1H), 5.32(bs, 2H), 6.97(s, 1H), 7.03 (m, 2H), 7.06(d, J=8.2 Hz, 1H), 7.38(s, 1H), 8.15(d, J=7.9 Hz, 1H), 8.31(s, 1H). LC/MS MH30 =471.

reactant | Phenyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.065 mmol, 30 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OC2=CC=CC=C2)=O)OC)C2CCOCC2 | C25H25N5O4
reactant | glycerol formal | 0.05 mL | C1C(OCO1)CO | C4H8O3
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | tetrahydro-3-furanyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.004 mmol, 2 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OC2COCC2)=O)OC)C2CCOCC2 | C23H27N5O5
